US05037825
A solution of 20.0 g of methoxymethyltriphenylphosphonium chloride in 60 ml of absolute tetrahydrofuran was treated dropwise at 0° C. under argon with 43 ml of 1.4N n-butyllithium in hexane. The mixture was stirred for 1/4 hour. Thereafter, the mixture was treated with 8.02 g of 3,4-dihydro-1-benzothiepin-5(2H)-one in a small amount of tetrahydrofuran. After 5 minutes, the cooling bath was removed and the reaction mixture was stirred at room temperature for an additional 11/2 hours. Thereafter, the reaction mixture was partitioned between petroleum ether and ethanol/water (8:2). The lighter phase was washed with water, dried over sodium sulfate and evaporated. There were obtained 11.8 g of crude product which were dissolved in 80 ml of tetrahydrofuran and treated under argon with 100 ml of 35% perchloric acid. The reaction mixture was stirred overnight, poured on to ice, extracted with ether, washed with 5% sodium carbonate solution, dried and evaporated. Chromatography on silica gel (petroleum ether/ethyl acetate 92:8) yielded 5.04 g of 2,3,4,5-tetrahydro-1-benzothiepine-5-carboxaldehyde as a colorless oil.

reactant | methoxymethyltriphenylphosphonium chloride | 20.0 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 1.4N, 43 ml | C(CCC)[Li]
reactant | 3,4-dihydro-1-benzothiepin-5(2H)-one | 8.02 g | S1CCCC(C2=C1C=CC=C2)=O | C10H10OS
reactant | perchloric acid | 100 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2,3,4,5-tetrahydro-1-benzothiepine-5-carboxaldehyde | 5.04 g | S1CCCC(C2=C1C=CC=C2)C=O | C11H12OS
